US06410584B1
According to the method of Production Example 1, a mixed solution of methyl E-4-(2-dimethylaminovinyl)-3-nitrobenzoate (6.30 g), pyridine (3.2 ml), propionyl chloride (3.26 g) and methylene chloride (60 ml) is heated under reflux for 11 hours, and then heated under reflux with 1,4-dioxane in water for 16 hours to obtain methyl 4-(2-oxobutyl)-3-nitrobenzoate (5.63 g).

reactant | methyl E-4-(2-dimethylaminovinyl)-3-nitrobenzoate | 6.30 g | CN(/C=C/C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-])C | C12H14N2O4
reactant | pyridine | 3.2 ml | N1=CC=CC=C1 | C5H5N
reactant | propionyl chloride | 3.26 g | C(CC)(=O)Cl | C3H5ClO
reactant | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | methyl 4-(2-oxobutyl)-3-nitrobenzoate | 5.63 g | O=C(CC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-])CC | C12H13NO5
